US20010053851A1
A solution of 3-cyclopentyl-2-(4-pyridin-2-ylethynyl-phenyl)-propionic acid methyl ester (930 mg, 2.79 mmol) in methanol (5 mL), water (2 mL) and tetrahydrofuran (1 mL) was treated with lithium hydroxide (80 mg, 1.90 mmol). The reaction mixture was stirred at 25° C. for 60 h. At this time, additional lithium hydroxide (100 mg, 2.38 mmol) was added. The reaction was stirred at 25° C. for 3 h. At this time, the reaction was diluted with water (10 mL) and then concentrated in vacuo. The resulting aqueous layer was washed with ethyl acetate (2×10 mL), acidified with a 1N aqueous hydrochloric acid solution, and then extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to afford 3-cyclopentyl-2-(4-pyridin-2-ylethynyl-phenyl)-propionic acid (873 mg, 98%) as an amber solid: mp 143-147° C.; EI-HRMS m/e calcd for C21H21NO2 (M+) 319.1572, found 319.1580.

reactant | 3-cyclopentyl-2-(4-pyridin-2-ylethynyl-phenyl)-propionic acid methyl ester | 2.79 mmol, 930 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CC1=NC=CC=C1)=O | C22H23NO2
reactant | lithium hydroxide | 1.90 mmol, 80 mg | [OH-].[Li+]
reactant | lithium hydroxide | 2.38 mmol, 100 mg | [OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-cyclopentyl-2-(4-pyridin-2-ylethynyl-phenyl)-propionic acid | 873 mg, 98% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CC1=NC=CC=C1 | C21H21NO2
